US06479670B1
5.1. Preparation of 4-(4-methoxymethyl-4-methyl-chroman-6-ylethynyl)-benzoic acid
625 mg (1.78 mmol) of 4-(4-methoxymethyl-4-methyl-chroman-6-ylethynyl)-benzoic acid methyl ester was dissolved in 9 ml of THF/ethanol (1/1) and treated with 2.34 ml of 3N NaOH (4 eq.). The reaction flask was kept in the dark and stirring continued for 18 h at room temperature. The mixture was then poured onto crushed ice/ HCl, extracted twice with diethylether, the organic phase was washed with water, dried over magnesium sulfate, filtrated and the solvent was evaporated. Crystallization from ethylacetate yielded 545 mg of the title product as white crystals of m.p. 202-203° C.

reactant | 4-(4-methoxymethyl-4-methyl-chroman-6-ylethynyl)-benzoic acid methyl ester | 1.78 mmol, 625 mg | COC(C1=CC=C(C=C1)C#CC=1C=C2C(CCOC2=CC1)(C)COC)=O | C22H22O4
reactant | NaOH | 3N, 2.34 ml, 4 eq. | [OH-].[Na+]
solvent | THF ethanol | 9 ml | C1CCOC1.C(C)O
product | 4-(4-methoxymethyl-4-methyl-chroman-6-ylethynyl)-benzoic acid | 545 mg | COCC1(CCOC2=CC=C(C=C12)C#CC1=CC=C(C(=O)O)C=C1)C | C21H20O4
